US07888364B2
A mixture of 1 g of methyl 4-iodobenzoate, 399 mg of 2-oxozolidone, 1.1 g of potassium carbonate, 34 mg of N,N′-dimethylethylenediamine and 73 mg of copper iodide in 10 mL of toluene was heated to 150° C. in a sealed microwave reactor for 2 h. The reaction mixture was diluted with ethyl acetate, washed with H2O, dried (MgSO4) and evaporated. Purified by silica gel chromatography (20-70% ethyl acetate/hexane) to afford methyl 4-(2-oxooxazolidin-3-yl)benzoate. 530 mg of methyl 4-(2-oxooxazolidin-3-yl)benzoate was hydrolyzed via Procedure M to give 4-(2-oxooxazolidin-3-yl)benzoic acid. 70 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(2-oxooxazolidin-3-yl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-oxooxazolidin-3-yl)benzamide. MS (Q1) 394.2 (M)+.

reactant | methyl 4-iodobenzoate | 1 g | IC1=CC=C(C(=O)OC)C=C1 | C8H7IO2
reactant | potassium carbonate | 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 34 mg | CNCCNC | C4H12N2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 73 mg | [Cu](I)I
product | methyl 4-(2-oxooxazolidin-3-yl)benzoate | O=C1OCCN1C1=CC=C(C(=O)OC)C=C1 | C11H11NO4
